US05000775
Methyl 2-[(1,1-dimethylethyl)amino]-5-(2-chlorophenyl)-4-thiazolecarboxylate
A reaction vessel was charged with 50 ml methanol and 4 g (30 mmol) of tert-butyl thiourea. With this mixture stirred and cooled in an ice bath, there was added over a 5-minute period 7.41 g of (30 mmol) methyl 3-chloro-3-(o-chlorophenyl)pyruvate. The reaction mixture was refluxed for 16 hours. The mixture was cooled to ambient temperature and concentrated under reduced pressure to yield 9.18 g of a yellow solid which became a hard, glass-like material. This material was recrystallized from an acetone-water solution to yield 7.0 g of a yellow solid product (m.p.=159°-161° C.) identified in Table I.

reactant | tert-butyl thiourea | 30 mmol, 4 g | C(C)(C)(C)NC(=S)N | C5H12N2S
reactant | methyl 3-chloro-3-(o-chlorophenyl)pyruvate | 30 mmol, 7.41 g | ClC(C(C(=O)OC)=O)C1=C(C=CC=C1)Cl | C10H8Cl2O3
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 2-[(1,1-dimethylethyl)amino]-5-(2-chlorophenyl)-4-thiazolecarboxylate | 9.18 g | CC(C)(C)NC=1SC(=C(N1)C(=O)OC)C1=C(C=CC=C1)Cl | C15H17ClN2O2S
